US03960818
PREPARATION OF 4,4'-DIAMINO CARBANILIDE
To a 1-liter, 3-neck round-bottom flask equipped with a mechanical stirrer, nitrogen inlet tube extending below the liquid level and a reflux condenser with a nitrogen exit to a gas bubbler, was added 500 ml. of distilled water. After the water was de-oxygenated by bubbling nitrogen gas through it for 3 hours, 15 g. (0.25 mole) of a commercial pre-dried urea and 60 g. (0.554 mole) of purified p-phenylenediamine were added and the solution which formed was refluxed for about 72 hours under a nitrogen atmosphere. The diamine to urea mole ratio utilized was 2.22.

reactant | urea | 0.25 mole | NC(=O)N | CH4N2O
reactant | p-phenylenediamine | 0.554 mole | C1=CC(=CC=C1N)N | C6H8N2
solvent | water | O | H2O
product | 4,4'-DIAMINO CARBANILIDE | C1=CC(=CC=C1N)NC(=O)NC2=CC=C(C=C2)N | C13H14N4O
